US08236817B2
907.4 g of moxifloxacin hydrochloride monohydrate and 9070 ml of absolute ethanol (K.F.<0.1%) were failed into a 10 liter jacketed reactor and equipped with a mechanical stirrer, reflux condenser, and thermometer. The suspension was brought to reflux with stirring and was kept in those conditions for 4 hours. The temperature was then reduced to 20° C. and the solid was filtered out and washed with 900 ml of absolute ethanol. The filtered solid was then discharged and dried under vacuum (30 mmHg) at 40° C. for 18 hours to give moxifloxacin hydrochloride form A having a water content of about 1% K.F.).

reactant | moxifloxacin hydrochloride monohydrate | 907.4 g | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O.O.Cl
solvent | ethanol | 9070 ml | C(C)O | C2H6O
product | moxifloxacin hydrochloride | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O.Cl | InChI=1S/C21H24FN3O4.ClH/c1-29-20-17-13(19(26)14(21(27)28)9-25(17)12-4-5-12)7-15(22)18(20)24-8-11-3-2-6-23-16(11)10-24;/h7,9,11-12,16,23H,2-6,8,10H2,1H3,(H,27,28);1H/t11-,16+;/m0./s1
